US07507729B2
b) Isoxazol-5-yl-acetic acid hydrazide
As described for example 112a, isoxazol-5-yl-acetic acid methyl ester in butanol was reacted with hydrazine hydrate (2 equivalents) and the resulting mixture was heated under reflux for 4 h. Evaporation of all volatiles and chromatography (SiO2, dichloromethane:methanol:aq.ammonia (25%)=100:0:0 to 90:10:1) afforded the title compound as a white solid (yield: 41%). 1H-NMR (300 MHz, DMSO): δ=3.65 (s, 2H), 4.31 (s, 2H), 6.32 (s, 1H), 8.46 (s, 1H), 9.32 (s, 1H).

reactant | isoxazol-5-yl-acetic acid methyl ester | COC(CC1=CC=NO1)=O | C6H7NO3
reactant | hydrazine hydrate | 2 equivalents | O.NN
solvent | butanol | C(CCC)O | C4H10O
product | Isoxazol-5-yl-acetic acid hydrazide | yield: 41% | O1N=CC=C1CC(=O)NN | C5H7N3O2
